US07365085B2
a. N-(2,2-Diphenylethyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxyphenoxy)propylamine
A solution of N-(2,2-Diphenylethyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-hydroxypropylamine (186 mg, 0.42 mmole) and methyl 3-hydroxybenzoate (63 mg, 0.42 mmole) in 15 mL of THF was treated with Ph3P (110 mg, 0.42 mmole) and diisopropylazodicarboxylate (93 mg, 0.46 mmole). The reaction was stirred for 18 hours, diluted with H2O, and extracted with Et2O. The extracts were washed with H2O, dried, and the solvent evaporated. The residue was chromatographed on a silica gel column, and elution with 10% EtOAc in hexane gave the titled product, 64 mg (26% yield). MS (ESI) 583 (MH+).

reactant | N-(2,2-Diphenylethyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-hydroxypropylamine | 0.42 mmole, 186 mg | C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCO)C1=CC=CC=C1 | C25H25ClF3NO
reactant | methyl 3-hydroxybenzoate | 0.42 mmole, 63 mg | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | Ph3P | 0.42 mmole, 110 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diisopropylazodicarboxylate | 0.46 mmole, 93 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | N-(2,2-Diphenylethyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxyphenoxy)propylamine | 26% yield | C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC1=CC(=CC=C1)C(=O)OC)C1=CC=CC=C1 | C33H31ClF3NO3
